.SUBCKT HALF13700    LIN   INP   INN  IAB  OUT  VCC  VSS  BIN  BUF
QN1     IAB   VN2B   VSS   NPNV     3
QN2     VN2B  VN2B   VSS   NPNV     3
QN3     VN3C  IAB    VN2B  NPNV     3
QN4     VP3B  INN    VN3C  NPNV     3
QN5     VP6B  INP    VN3C  NPNV     3
QN6     LIN   LIN    INN   NPNV     3
QN7     LIN   LIN    INP   NPNV     3
QN8     VN10B VN9B   VSS   NPNV     3
QN9     VN9B  VN9B   VSS   NPNV     3
QN10    OUT   VN10B  VN9B  NPNV     3
QN11    VCC   BIN    VN12B NPNV     15
QN12    VN12B VN12B  BUF   NPNV     3
QN13    VCC   VN12B  BUF   NPNV     150
QP1     VP3B  VP2B   VCC   PNPL     3
QP2     VP2B  VP2B   VCC   PNPL     3
QP3     VN10B VP3B   VP2B  PNPL     3
QP4     VP6B  VP5B   VCC   PNPL     3
QP5     VP5B  VP5B   VCC   PNPL     3
QP6     OUT   VP6B   VP5B  PNPL     3
.ends

.MODEL  NPNV      NPN(
*==========================================================
+IS=1.1E-18     NF=1.005   BF=220        VAF=130      IKF=5e-03
+ISE=9.15E-15   NE=2
*==========================================================
+CJE=2E-12 CJC=2E-13 CJS=3E-12 TF=.6E-9 )

.MODEL  PNPL     PNP(
*==========================================================
+IS=1.1E-18     NF=1.8   BF=5        VAF=170      IKF=6e-03
+ISE=3E-15      NE=3
*==========================================================
+CJE=4E-12 CJC=6E-13 CJS=5E-12 TF=70E-9 )
.end
